US08623857B2
Step A—Synthesis of Methyl 1-(2-fluoro-6-nitrophenyl)piperidine-4-carboxylate (Int-20a)
A mixture of difluoronitrobenzene (0.34 mL, 3.10 mmol), methyl isonipecotate (0.51 mL, 3.78 mmol), and diisopropylethylamine (1.08 mL, 6.20 mmol) in acetonitrile (15 mL) was heated at 80° C. overnight. The solvents were removed in vacuo. Chromatographic purification (20% ethyl acetate:hexane) of the residue gave Int-20a (0.85 g, 97%) as a yellow oil.

reactant | difluoronitrobenzene | 3.10 mmol, 0.34 mL | FC=1C(=C(C=CC1)[N+](=O)[O-])F | C6H3F2NO2
reactant | methyl isonipecotate | 3.78 mmol, 0.51 mL | N1CCC(C(=O)OC)CC1 | C7H13NO2
reactant | diisopropylethylamine | 6.20 mmol, 1.08 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Methyl 1-(2-fluoro-6-nitrophenyl)piperidine-4-carboxylate | FC1=C(C(=CC=C1)[N+](=O)[O-])N1CCC(CC1)C(=O)OC | C13H15FN2O4
